Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right thyroid nodule

 
Major Surgical or Invasive Procedure:
Total thyroidectomy, intraoperative nerve monitoring, 
parathyroid autotransplantation.

 
History of Present Illness:
The patient is a ___ woman who presents with a newly 
diagnosed right-sided thyroid nodule.Recent thyroid ultrasound 
has shown a 3.4 cm solid nodule with internal vascularity in the 
right thyroid lobe.A fine needle aspiration biopsy has been 
performed and cytology showed evidence of a follicular lesion of 
undetermined significance.  The cytology favored a benign 
process; however, a neoplasm could not be excluded.After 
discussion of different management options, the patient 
initially opted for a right hemithyroidectomy, but because she 
realizes that if evidence of malignancy were to be found a 
second operation may be needed, she has now decided instead to 
have a total thyroidectomy performed.  The patient presents for 
total thyroidectomy today.  Risks and benefits associated with 
the procedure have been discussed in great detail and a consent 
form has been signed.

 
Past Medical History:
right thyroid nodule
anxiety
Hypertension
PSH: wrist surgery ___
Total thyroidectomy, intraoperative nerve monitoring, 
parathyroid autotransplantation ___

 
Social History:
___
Family History:
NC
 
Physical Exam:
Vital signs:98.4 90 134/86 20 97% RA
General: No acute distress, alert and oriented 
HEENT: neck supple, trachea midline,incision with steri-strips 
intact, no hematoma, no erythema or drainage
Cardiovascular:regular rate and rhythm, no murmurs/gallops/rubs
Respiratory:unlabored
Abdomen:soft/non-tender/non-distended
Extremities: no clubbing/cyanosis/edema

 
Pertinent Results:
___ 01:15PM BLOOD Calcium-8.4
___ 07:30AM BLOOD Calcium-7.8*
 
Brief Hospital Course:
Ms. ___ underwent total thyroidectomy, intraoperative nerve 
monitoring, parathyroid autotransplantation thyroidectomy. She 
tolerated the procedure well and after a brief stay in the 
recovery room and was admitted overnight to the inpatient 
general surgery unit. 

POD 1, She had a positive Chvostek sign, however denied perioral 
or lower extremity paresthesia. Her calcium was checked and was 
7.8 and was replaced with PO and IV calcium supplement. Her 
repeat Calcium was 8.4 and she had no symptoms. Her neck 
remained soft and there were no signs of wound infection or 
hematoma. She had good pain control and was transitioned to oral 
pain medication. The diet was advanced to regular which was 
tolerated well. She voided postoperatively without difficulty. 
Incentive spirometer and ___ ambulation were encouraged 
immediately following her surgery. She was deemed appropriate 
for discharge on POD 1 and will follow-up with Dr. ___ in 
clinic. 
 
 
Medications on Admission:
alprazolam 0.25 PRN
amlodipine 10 mg PO daily
HCTZ 25 mg PO daily

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q4H:PRN pain 
2. ALPRAZolam 0.5 mg PO BID:PRN anxiety 
3. Amlodipine 10 mg PO DAILY 
4. Levothyroxine Sodium 112 mcg PO DAILY 
RX *levothyroxine 112 mcg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*3
5. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0
6. Calcitriol 0.25 mcg PO BID 
RX *calcitriol [Rocaltrol] 0.25 mcg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0
7. Calcium Carbonate ___ mg PO TID 
RX *calcium carbonate [Calcium Antacid] 200 mg calcium (500 mg) 
4 tablet(s) by mouth three times a day Disp #*360 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right thyroid nodule

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the inpatient general surgery unit after 
your total thyroidectomy. You have adequate pain control and 
have tolerated a regular diet and may return home to continue 
your recovery. You will be discharged home on thyroid hormone 
replacement Monitor for signs and symptoms of low Calcium such 
as numbness or tingling around mouth or fingertips. If you 
experience any of these signs or symptoms, take 6 Tums 
immediately and call Dr. ___ or go to emergency 
room if you have severe symptoms. You will need to have your 
Calcium level drawn the day before your follow-up visit on 
___ blood work can be drawn at ___ 
on the ___ floor or outside lab. If your blood is drawn at an 
outside lab then please contact Dr. ___ office with the 
fax number so we can get the results. Your follow-up visit with 
Dr. ___ is scheduled for ___ as listed below. 
Please resume all regular home medications, unless specifically 
advised not to take a particular medication and take any new 
medications as prescribed. You will be given a prescription for 
narcotic pain medication, take as prescribed. It is recommended 
that you take a stool softner such as Colace while taking oral 
narcotic pain medication to prevent constipation. You may also 
take acetaminophen (Tylenol) as directed, but do not exceed 4000 
mg in one day. Please get plenty of rest, continue to walk 
several times per day, and drink adequate amounts of fluids. 
Please call your surgeon or go to the emergency department if 
you have increased pain, swelling, redness, or drainage from the 
incision site.You may shower and wash incisions with a mild soap 
and warm water.Avoid swimming and baths until cleared by your 
surgeon.Gently pat the area dry.You have a neck incision with 
steri-strips in place, do not remove, they will fall off on 
their own. 
Thank you for allowing us to participate in your care! Our hope 
is that you will have a quick return to your life and usual 
activities. Good luck! 

 
Followup Instructions:
___